US04134895
211.2 g (1.0 mol) of 5-nitroisophthalic acid are dissolved in 1,590 g of aqueous sodium hydroxide (90.0 g of sodium hydroxide in 1,500 ml of water) and the solution is rendered neutral with 15 ml of anhydrous acetic acid and hydrogenated in the presence of 10 g of a palladium-on-charcoal catalyst (5% by weight of Pd). The catalyst is filtered off and a solution of 118.0 g (1.2 mols) of maleic anhydride in 150 ml of dioxane is added to the filtrate in the course of 2 hours, whilst stirring vigorously. A white suspension is formed and is stirred overnight at 20°-25° C., 250 ml of acetic acid are then added and the mixture is stirred for a further 2 hours. The amide-acid which has precipitated is filtered off, washed with water and methanol and dried at 30° C. in vacuo for 24 hours. The reaction product (315 g) is then heated, in 2,500 ml of acetic anhydride, whilst stirring, to 80°-85° C. for 30 minutes. About 1.8 liters of liquid (acetic acid + acetic anhydride) are distilled off under a waterpump vacuum. The residual suspension is poured onto 2,000 g of ice and the mixture is stirred overnight. The reaction product which has precipitated is filtered off, washed with water and methanol and dried at 60° C. in vacuo for 12 hours. 210 g of white, crystalline 5-maleimidylisophthalic acid are obtained; melting point > 300° C. (= 80% of theory, based on the nitroisophthalic acid).

reactant | 5-nitroisophthalic acid | 1.0 mol, 211.2 g | [N+](=O)([O-])C=1C=C(C=C(C(=O)O)C1)C(=O)O | C8H5NO6
reactant | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
reactant | maleic anhydride | 1.2 mols, 118.0 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
solvent | sodium hydroxide | 1,500 ml, 1,590 g | [OH-].[Na+]
catalyst | palladium-on-charcoal | 10 g | [Pd] | Pd
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
product | 5-maleimidylisophthalic acid | C1(C=CC(N1C=1C=C(C=C(C(=O)O)C1)C(=O)O)=O)=O | C12H7NO6
